US07253174B2
(a) 3-(R)-[4-[(2,2-Dimethyl-propyl)-methyl-amino]-6-(2-methyl-5-methylcarbamoyl-phenylamino)-pyrimidin-2-ylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of 3-(R)-[4-fluoro-6-(2-methyl-5-methylcarbamoyl-phenylamino)-pyrimidin-2-ylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.36 g, 0.81 mmol), N-methyl-neopentylamine hydrochloride (411 mg, 3 mmol) and DIEA(0.4 mL) in 1,4-dioxane (0.5 mL) was stirred at 90° C. overnight. After removing the solvent under reduced pressure the desired product (81 mg) was purified by silica gel chromatography. C28H43N7O3 MS m/e=526 (M+H).

reactant | 3-(R)-[4-fluoro-6-(2-methyl-5-methylcarbamoyl-phenylamino)-pyrimidin-2-ylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.81 mmol, 0.36 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=NC(=CC(=N1)F)NC1=C(C=CC(=C1)C(NC)=O)C | C22H29FN6O3
reactant | N-methyl-neopentylamine hydrochloride | 3 mmol, 411 mg | Cl.CNCC(C)(C)C
reactant | DIEA | 0.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 3-(R)-[4-[(2,2-Dimethyl-propyl)-methyl-amino]-6-(2-methyl-5-methylcarbamoyl-phenylamino)-pyrimidin-2-ylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=NC(=CC(=N1)N(C)CC(C)(C)C)NC1=C(C=CC(=C1)C(NC)=O)C | C28H43N7O3
